US05846982
A solution of 0.998 gm (2.72 mMol) 5-chloro-2-(4-hydroxy-1-(tert-butoxycarbonyl)piperidin-4-yl)benzothiophene in 10.0 mL dichloromethane was subjected to the reaction conditions described in the previous example, providing 0.444 gm (65%) of 5-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzothiophene as a tan solid. This material was dissolved in ethyl acetate and the solution was treated with oxalic acid. The resulting solution was concentrated under reduced pressure to give the title compound.

reactant | 5-chloro-2-(4-hydroxy-1-(tert-butoxycarbonyl)piperidin-4-yl)benzothiophene | 2.72 mMol, 0.998 gm | ClC=1C=CC2=C(C=C(S2)C2(CCN(CC2)C(=O)OC(C)(C)C)O)C1 | C18H22ClNO3S
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
product | 5-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzothiophene | 0.444 gm, 65% | ClC=1C=CC2=C(C=C(S2)C=2CCNCC2)C1 | C13H12ClNS
